US04918064
α-Chloro-α'-diethylphosphono-2,5-dimethyl-p-xylene
2,5-Bis(chloromethyl)-p-xylene (25 mmol) and triethylphosphite (10 mmol) were combined and heated to 130° C. under a nitrogen atmosphere for 24 hours. The reaction mixture was chromatographed on silica gel (175 gm). The column was eluted with dichloromethane until the excess starting material eluted. The eluting solvent was then changed to 5% ethanol/dichloromethane whereupon the product eluted The appropriate fractions were pooled and concentrated on a rotatory evaporator to give the product as an oil.

reactant | 2,5-Bis(chloromethyl)-p-xylene | 25 mmol | ClCC1=C(C=C(C(=C1)C)CCl)C | C10H12Cl2
reactant | triethylphosphite | 10 mmol | C(C)OP(OCC)OCC | C6H15O3P
product | α-Chloro-α'-diethylphosphono-2,5-dimethyl-p-xylene | ClCC1=C(C=C(C(=C1)C)CP(=O)(OCC)OCC)C | C14H22ClO3P
